US05846995
N-(N,N-Dimethyl-1,2,3,4-tetrahydro-2-aminodibenzofur-8-yl)-pyridine-4-carboxamide
Beginning with 0.132 gm (0.57 mMol) of N,N-dimethyl-8-amino-1,2,3,4-tetrahydro-2-dibenzofuranamine and 0.15 gm (0.84 mMol) of isonicotinoyl chloride, 0.081 gm (42%) of the title compound were obtained by the procedure described in Example 20.

reactant | N,N-dimethyl-8-amino-1,2,3,4-tetrahydro-2-dibenzofuranamine | 0.57 mMol, 0.132 gm | CN(C1CC2=C(OC3=C2C=C(C=C3)N)CC1)C | C14H18N2O
reactant | isonicotinoyl chloride | 0.84 mMol, 0.15 gm | C(C1=CC=NC=C1)(=O)Cl | C6H4ClNO
product | N-(N,N-Dimethyl-1,2,3,4-tetrahydro-2-aminodibenzofur-8-yl)-pyridine-4-carboxamide | 0.081 gm, 42% | CN(C1CC2=C(OC3=C2C=C(C=C3)NC(=O)C3=CC=NC=C3)CC1)C | C20H21N3O2
